US07674789B2
86a) 5-chloro-1-(2,6-difluorophenyl)-7-(methylsulfinyl)-3,4-dihydropyrimido[4,5-d]pyrimidin-2(1H)-one
To a solution of 3-[8-(2,6-difluorophenyl)-2-(methylthio)-7-oxo-5,6,7,8-tetrahydropyrimido[4,5-d]pyrimidin-4-yl]-4-methylbenzoic acid (1.71 g, 5 mmol) in CH2Cl2 (60 mL) was added m-CPBA (1.17 g, 5.2 mmol). The mixture was stirred at room temperature for 10 minutes, then directly loaded onto a column. Flash chromatography (mobile phase EtOAc/Hexane) afforded the title compound as a white solid 1.58 g (88%). LC-MS m/z 358 (M+H)+.

reactant | 3-[8-(2,6-difluorophenyl)-2-(methylthio)-7-oxo-5,6,7,8-tetrahydropyrimido[4,5-d]pyrimidin-4-yl]-4-methylbenzoic acid | 5 mmol, 1.71 g | FC1=C(C(=CC=C1)F)N1C(NCC2=C1N=C(N=C2C=2C=C(C(=O)O)C=CC2C)SC)=O | C21H16F2N4O3S
reactant | m-CPBA | 5.2 mmol, 1.17 g | C1=CC(=CC(=C1)Cl)C(=O)OO | C7H5ClO3
reactant | EtOAc Hexane | CCOC(=O)C.CCCCCC
reactant | CH2Cl2 | 60 mL | C(Cl)Cl | CH2Cl2
product | 5-chloro-1-(2,6-difluorophenyl)-7-(methylsulfinyl)-3,4-dihydropyrimido[4,5-d]pyrimidin-2(1H)-one | 1.58 g, 88% | ClC1=C2C(=NC(=N1)S(=O)C)N(C(NC2)=O)C2=C(C=CC=C2F)F | C13H9ClF2N4O2S
